2153-03-30 09:12:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo women with chronic respiratory failure after CABG with post-op
   complications including VAP, tracheal bleeding, left sided exudative
   effusion.   Recently being treated for E.colis and acinetobacter in
   sputum.
   24 Hour Events:
 BLOOD CULTURED - At [**2153-3-29**] 07:40 PM
   Arterial line
 URINE CULTURE - At [**2153-3-29**] 07:40 PM
 STOOL CULTURE - At [**2153-3-29**] 08:46 PM
 FEVER - 101.4
F - [**2153-3-29**] 04:00 PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2153-3-28**] 12:53 PM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Metoprolol - [**2153-3-29**] 03:00 PM
   Hydralazine - [**2153-3-29**] 03:54 PM
   Midazolam (Versed) - [**2153-3-29**] 04:14 PM
   Hydromorphone (Dilaudid) - [**2153-3-30**] 02:21 AM
   Enoxaparin (Lovenox) - [**2153-3-30**] 08:04 AM
   Other medications:
   SSI
   pepcid
   tigecycline
   lovenox
   lipitor
   docusate
   tobra
   asa
   amiodarone
   atrovent
   albuterol
   lopressor
   lasix drip
   lorazepam
   tylenol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-3-30**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.2
C (98.9
   HR: 73 (68 - 81) bpm
   BP: 165/72(107) {125/47(75) - 181/78(118)} mmHg
   RR: 20 (0 - 39) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.2 kg (admission): 74 kg
   Height: 56 Inch
             Total In:
                                                                  1,723 mL
                                                                    851 mL
   PO:
             TF:
                                                                  1,202 mL
                                                                    437 mL
   IVF:
                                                                    321 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    710 mL
   Urine:
                                                                  1,350 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    373 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 367 (231 - 367) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 100
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.36/55/107/30/3
   Ve: 6.7 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l, Rhonchorous: b/l)
   Abdominal: Soft, Non-tender
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   197 K/uL
   116 mg/dL
   0.8 mg/dL
   30 mEq/L
   4.6 mEq/L
   47 mg/dL
   109 mEq/L
   146 mEq/L
   28.0 %
   20.2 K/uL
        [image002.jpg]
                             [**2153-3-27**]  09:00 PM
                             [**2153-3-27**]  09:14 PM
                             [**2153-3-28**]  03:04 AM
                             [**2153-3-28**]  09:00 PM
                             [**2153-3-29**]  02:30 AM
                             [**2153-3-29**]  03:11 PM
                             [**2153-3-29**]  09:01 PM
                             [**2153-3-29**]  09:38 PM
                             [**2153-3-30**]  03:14 AM
                             [**2153-3-30**]  03:33 AM
   WBC
   16.5
   17.1
   22.1
   19.6
   20.2
   Hct
   28.3
   27.4
   27.9
   27.2
   28.0
   Plt
   137
   151
   186
   191
   197
   Cr
   0.7
   0.6
   0.8
   0.8
   TropT
   0.02
   0.03
   TCO2
   34
   28
   32
   37
   32
   Glucose
   87
   108
   123
   116
   Other labs: PT / PTT / INR:20.6/52.2/1.9, CK / CKMB /
   Troponin-T:12/2/0.03, ALT / AST:[**7-26**], Alk Phos / T Bili:99/0.9, Amylase
   / Lipase:17/21, Differential-Neuts:74.7 %, Lymph:15.8 %, Mono:7.3 %,
   Eos:1.9 %, Lactic Acid:1.0 mmol/L, Albumin:2.9 g/dL, LDH:234 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Respiratory failure:  Grossly fluid overloaded, continue lasix drip.
   Can drop down to PSV 5/5.
   Fevers/VAP:  continue tigecycline and tobramycin for acinetobacter and
   e. coli in sputum
   DM II
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2153-3-29**] 04:57 PM 50 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2153-3-20**] 12:57 PM
   PICC Line - [**2153-3-26**] 03:44 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2153-04-01 07:23:00 Physician Attending Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2153-3-31**] 05:54 PM
 FEVER - 101.2
F - [**2153-3-31**] 08:00 PM
   - Increased Metoprolol to 50mg q6h and added PO Diltiazem at 60mg q6h
   for afib with RVR.
   - Got pan-cultured for temp of 101.1
   - Lasix gtt held as good UOP
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Tobramycin - [**2153-3-31**] 12:27 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2153-3-31**] 11:02 AM
   Diltiazem - [**2153-3-31**] 12:00 PM
   Lorazepam (Ativan) - [**2153-3-31**] 02:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-1**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.4
C (99.4
   HR: 78 (74 - 119) bpm
   BP: 146/65(93) {122/48(72) - 154/71(100)} mmHg
   RR: 22 (8 - 88) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 80.2 kg (admission): 74 kg
   Height: 56 Inch
             Total In:
                                                                  1,859 mL
                                                                    395 mL
   PO:
             TF:
                                                                    648 mL
                                                                    198 mL
   IVF:
                                                                    551 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  3,630 mL
                                                                    300 mL
   Urine:
                                                                  3,630 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,771 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 338 (301 - 424) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 159
   PIP: 21 cmH2O
   SpO2: 97%
   ABG: 7.38/61/103/34/7
   Ve: 9.7 L/min
   PaO2 / FiO2: 206
   Physical Examination
   GEN: Trach in place. Appears comfortable.
   HEENT: AT / NC, alopecia, PERRL, EOMI
   NECK: Neck supple, no LAD, trach in place without surrounding erythema,
   exudate, or tenderness
   PULM: Clear anteriorly with decreased BS at left inferior lung
   CARD: Irregular, tachycardic, nl S1, nl S2
   ABD: PEG tube in place without surrounding erythema, exudate, or
   tenderness
   EXT: Decreased edema compared to previous
   SKIN: Chest wound c/ granulation tissue appears well healing, no ttp,
   no surrounding erythema
   NEURO: Difficult to assess orientation
   Labs / Radiology
   235 K/uL
   8.8 g/dL
   120 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.8 mEq/L
   51 mg/dL
   106 mEq/L
   146 mEq/L
   28.7 %
   21.1 K/uL
        [image002.jpg]
                             [**2153-3-30**]  12:25 PM
                             [**2153-3-31**]  12:23 AM
                             [**2153-3-31**]  02:01 AM
                             [**2153-3-31**]  02:13 AM
                             [**2153-3-31**]  03:38 AM
                             [**2153-3-31**]  05:16 AM
                             [**2153-3-31**]  09:18 AM
                             [**2153-3-31**]  02:58 PM
                             [**2153-3-31**]  03:11 PM
                             [**2153-4-1**]  03:28 AM
   WBC
   21.4
   21.1
   Hct
   28.7
   28.7
   Plt
   217
   235
   Cr
   0.8
   0.8
   0.8
   TCO2
   33
   30
   33
   34
   36
   37
   37
   Glucose
   116
   102
   120
   Other labs: PT / PTT / INR:19.6/53.8/1.8, CK / CKMB /
   Troponin-T:12/2/0.03, ALT / AST:[**7-26**], Alk Phos / T Bili:99/0.9, Amylase
   / Lipase:17/21, Differential-Neuts:76.3 %, Lymph:16.2 %, Mono:5.5 %,
   Eos:1.6 %, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:234 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.1 mg/dL
   MICRO:
   [**2153-3-31**] BLOOD CULTURE- NGTD
   [**2153-3-31**] BLOOD CULTURE- NGTD
   [**2153-3-31**] URINE CULTURE- NGTD
   [**2153-3-29**]  STOOL FECAL CULTURE-PENDING NEGATIVE; CAMPYLOBACTER
   CULTURE-PENDING NEGATIVE; CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   NEGATIVE
   [**2153-3-29**]  URINE URINE CULTURE-FINAL INPATIENT  NEGATIVE
   [**2153-3-29**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT NGTD
   [**2153-3-28**]  PLEURAL FLUID GRAM STAIN-FINAL NEGATIVE; FLUID
   CULTURE-PRELIMINARY NGTD; ANAEROBIC CULTURE-PRELIMINARY NGTD
   [**2153-3-28**]  BRONCHOALVEOLAR LAVAGE GRAM STAIN-FINAL; RESPIRATORY
   CULTURE-PRELIMINARY {ACINETOBACTER BAUMANNII COMPLEX}
 tobramycin
   sensitive
   [**2153-3-27**]  URINE URINE CULTURE-FINAL {YEAST}
   [**2153-3-26**]  CATHETER TIP-IV WOUND CULTURE-FINAL NGTD
   [**2153-3-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   [**2153-3-25**]  BLOOD CULTURE Blood Culture, Routine-PENDING NGTD
   Assessment and Plan
 73F s/p CABG on [**1-6**] complicated by sternal wound infxn, a-fib, and
   respiratory failure requiring trach/PEG returns with bleeding from her
   tracheostomy site and later developed loculated left pleural effusion
   and persistent leukocytosis on tobramycin and Tigecycline.
   # Hypoxemic respiratory failure:
   Pt s/p Vent 2/09 after surgery. Now with recurrent L.sided pulmonary
   effusions. Consideration are infection-although pleural fluid from [**3-28**]
   without positive cultures; however had elevated WBCs on cell count.
   Sputum growing E.coli and acinetobacter from [**3-20**]. Recent sputum from
   [**3-28**] growing acinetobacter with same sensitivities of [**3-20**] sample.
   Likely other components include fluid overload (basilar crackles on
   exam, gross edema) and decompensation. Thoracic and IP services have
   been involved and have bronched and performed thoracentesis. Good
   diuresis yesterday.
   - Furosemide drip held o/n, approx 1.8 L negative yesterday, goal of 1
   L negative today
   - Follow-up BAL/bronch/[**Female First Name (un) 231**] cxs
   - Continue tobramycin and tigecycline
   - Consult with interventional pulmonology/thoracic surgery concerning
   potential drainage of left pleural effusion
   - Wean pressure support as tolerated
   # Atrial fibrillation with RVR:
   Started [**3-31**] with rate to the 130s Potential causes of atrial
   fibrillation this morning include atrial stretch from volume overload,
   catechol increase form intravascular volume depletion,
   - Rate controlled on metoprolol to 50mg q6h and dilatizem at 60mg q6h
   # Leukocytosis/fever
   Likely related to pulmonary etiology. However, will need to rule out
   stool for c.diff x 3. Has multiple pending fluid, urine, and blood
   cultures.
   - Continue tobramycin and tigecycline
   - Appreciate ongoing infectious disease consult input
   - D/c a-line
   - Follow-up urine culture
   - Follow-up sputum cx and BAL
   - Follow-up stool cx for c.diff for two additional samples in next two
   days
   - Follow-up trend fever curve/WBCs
   # Cardiac:
   History of hypertension, hyperlipidemia, and new onset atrial
   fibrillation post-operatively. Is not currently anticoagulated. Had
   been in sinus rhythm all day yesterday until atrial fibrillation [**3-31**]
   - Continue amiodarone, asa, BB, statin, dilt
   ICU Care
   Nutrition: Nutren 2.0 at goal rate of 27 mL/hr
   Glycemic Control:  humalog sliding scale
   Lines:
   Arterial Line - [**2153-3-20**] 12:57 PM will d/c per ID
   PICC Line - [**2153-3-26**] 03:44 PM
   Prophylaxis:
   DVT: Lovenox SQ
   Stress ulcer: H2 blocker
   VAP:  oral care, HOB elevation
   Comments: bowel regimen
   Communication:  Comments: Son - [**Name (NI) 3748**]
   [**Name (NI) 129**] status: Full
   Disposition: ICU
   ------ Protected Section ------
   Critical Care Attending Addendum
   Ms. [**Name13 (STitle) 3636**] was seen, examined and discussed on rounds with the ICU team
   and I agree with the note above. Briefly, she is a 73 yo women with a
   complex post-CABG ([**12-15**]) course w/ VAP, Trach and peg, mediastinitis,
   loculated pleural effusion, fevers, trache bleeding. Currently on
   tigacyclin/tobramycin for multiresistant acinetobacter. Yesterday had
   AF w/RVR requiring additional beta blocker and CCB. Further diuresis
   over last 24-48 hr with lasix drip. Persistently febrile with high wbc.
   Currently Tm 101.2 HR 77 AF, 124/70, 20 on PS15/5 97% .5 fi02. Neg over
   1 liter over 24 hr. On exam, diffuse anasarca, but improved c/w
   yesterday, dullness l base, no crackles, wheezes - normal bs, chest
   wall/abd wall edema. Sternal wound with pink granulation tissue - no
   tenderness or draining pus with palpation. Notable lab studies include
   wbc 21.1, hct 29, cr .8, BAL cx from 22nd growing acinetobacter, pl cx
   neg
   In summary, 73 yo w/ complex post cabg course including
   hypoxemia/tachypnea w/resp failure and acinetobacter/e coli infection
   and loculated pleural effusion. We will continue to treat the
   acinetobacter with two antibiotics. Will check tobra peak and continue
   to assess for other sources of infection. The loculated pleural fluid
   continues to be a potential source of persistent infection. Per
   discussions with IP yesterday, it does not appear that a pigtail
   catheter will sufficiently drain this space. Would suggest additional
   discussions with TSurg on Monday regarding ?operative solutions. We
   will continue to treat Atrial fibrillation with amio/beta blockers and
   calcium channel blocker. Resume lasix drip and will diurese as needed
   going forward. Monitor HR on two nodal agents. Consider further
   attempts at vent wean today and consider trial of PassyMuir valve (had
   used this at rehab) and mobilization once the atrial fibrillation has
   stablized. Continue lovenox sq. RemainsFull Code.
   [**First Name11 (Name Pattern1) 322**] [**Last Name (NamePattern1) 4609**], MD
   Critical Care Attending
   Total Time: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2153-4-1**] 12:09 PM ------

2153-04-07 11:17:00 Physician Attending Progress Note
Chief Complaint: endocarditis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   TEE with small veg
   Added Dopamine for relative brady hypotension thinking it was related
   to meds but have not been able to wean off
   24 Hour Events:
 EKG - At [**2153-4-6**] 10:45 AM
 TRANS ESOPHAGEAL ECHO - At [**2153-4-6**] 11:40 AM
 STOOL CULTURE - At [**2153-4-6**] 12:15 PM
   c-diff
 BLOOD CULTURED - At [**2153-4-6**] 12:30 PM
 BLOOD CULTURED - At [**2153-4-6**] 12:35 PM
   Allergies:
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2153-4-6**] 01:00 PM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2153-4-6**] 11:40 AM
   Midazolam (Versed) - [**2153-4-6**] 11:40 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2153-4-7**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 111 (87 - 111) bpm
   BP: 105/50(63) {82/31(42) - 127/65(79)} mmHg
   RR: 18 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80.2 kg (admission): 74 kg
   Height: 56 Inch
             Total In:
                                                                  2,162 mL
                                                                    492 mL
   PO:
             TF:
                                                                    267 mL
                                                                    194 mL
   IVF:
                                                                  1,445 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  2,950 mL
                                                                    755 mL
   Urine:
                                                                  2,940 mL
                                                                    755 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -788 mL
                                                                   -263 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 337 (337 - 337) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 69
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 98%
   ABG: ///37/
   Ve: 6.5 L/min
   Physical Examination
   Lying in bed, opens eyes to voice,
   RR
   Poor air moevemnt no wheeze
   Abd soft+BS
   Ext: + edema
   Labs / Radiology
   7.5 g/dL
   199 K/uL
   82 mg/dL
   1.4 mg/dL
   37 mEq/L
   3.9 mEq/L
   60 mg/dL
   93 mEq/L
   136 mEq/L
   23.8 %
   24.8 K/uL
        [image002.jpg]
                             [**2153-4-3**]  03:19 AM
                             [**2153-4-3**]  12:01 PM
                             [**2153-4-3**]  06:23 PM
                             [**2153-4-4**]  12:20 AM
                             [**2153-4-4**]  04:59 PM
                             [**2153-4-5**]  04:00 AM
                             [**2153-4-5**]  04:28 PM
                             [**2153-4-6**]  02:55 AM
                             [**2153-4-6**]  02:59 PM
                             [**2153-4-7**]  03:00 AM
   WBC
   20.7
   18.8
   22.3
   17.3
   24.8
   Hct
   29.2
   29.3
   28.7
   29.6
   27.5
   23.7
   28.0
   23.8
   Plt
   [**Telephone/Fax (3) 5703**]63
   199
   Cr
   0.8
   0.9
   0.9
   0.9
   1.1
   1.1
   1.2
   1.4
   1.4
   Glucose
   109
   112
   106
   106
   109
   106
   88
   113
   82
   Other labs: PT / PTT / INR:21.0/64.0/2.0, CK / CKMB /
   Troponin-T:12/2/0.03, ALT / AST:13/36, Alk Phos / T Bili:109/1.0,
   Amylase / Lipase:19/30, Differential-Neuts:74.1 %, Lymph:14.1 %,
   Mono:10.6 %, Eos:0.9 %, Fibrinogen:193 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.7 g/dL, LDH:292 IU/L, Ca++:7.8 mg/dL, Mg++:2.5 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan 73 yr old woman with long course after CABG c/b
   fungemia, mediastinitis now with poly microb PNA and new vegetation on
   vales
   In past 24 hours primary development has been new vasopressor
   requirement.
   1.       Hypotension: Complicated picture.  DDX initial thought was
   iatrogenic, maybe calcium channel blocker and beta blocker, but now on
   low dose dopa to maintain MAP 60. CXR looks more volume overloaded. DDX
   is decomp CHF which would require need to press on with diuresis using
   the dopa as a bridge versus evolving early sepsis and need for volume
   resusitation. Either could be true but for now will try diuresis and
   watch closely MAPS and UOP and lactate.
   2.       New Veg; unclear how old or from what source. Would favor
   empiric Rx for candidal adding Fluc
 discuss further with ID
   3.       ARF: in setting of CHF and dye load- likely ATN- trying to
   maintain UOP.
   4.    Resp Failure: stable vent settings no acute change.
   Remaining issues as per Housestaff notes
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2153-4-7**] 03:05 AM 27 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2153-4-5**] 02:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with pt and son
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45
   Patient is critically ill